US08383629B2
A solution of (E)-methyl 2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxylate (150 mg, 0.33 mmol) in THF (3 mL) was added to a suspension of NaH (27 mg, 0.66 mmol) in THF at 0° C. and stirred for 30 min at the same temperature. Methyl iodide (58 mg, 0.41 mmol) was added to the above mixture. The reaction mixture was stirred at rt for 2 h. The reaction mixture was poured into ice water and extracted with EtOAc (2×50 mL). The combined organic phases were dried over NaSO4, filtered and concentrated to give (E)-methyl 1-methyl-2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxylate (90 mg, 58%). 1H NMR (CD3OD): 1.85-2.02 (m, 4H), 3.26 (s, 3H), 3.88 (s, 3H), 3.95 (m, 1H), 4.15 (m, 1H), 4.28 (m, 1H), 7.10 (m, 1H), 7.26 (m, 1H), 7.52 (m, 1H), 7.68 (m, 1H), 7.77 (m, 1H), 8.06 (m, 4H).

reactant | (E)-methyl 2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxylate | 0.33 mmol, 150 mg | O=C1NC2=CC=C(C=C2C12CCN(CC2)C(\C=C\C2=C(C=CC=C2)C(F)(F)F)=O)C(=O)OC | C24H21F3N2O4
reactant | NaH | 0.66 mmol, 27 mg | [H-].[Na+]
reactant | Methyl iodide | 0.41 mmol, 58 mg | CI | CH3I
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (E)-methyl 1-methyl-2-oxo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidine]-5-carboxylate | 90 mg, 58% | CN1C(C2(CCN(CC2)C(\C=C\C2=C(C=CC=C2)C(F)(F)F)=O)C2=CC(=CC=C12)C(=O)OC)=O | C25H23F3N2O4
